US06987116B2
A mixture of ethyl 2-bromo-7-hydroxythieno[3,2-b]pyridine-6-carboxylate (1.3 g, 4.3 mmol) [Elliott, R.; O'Hanlon, P. J.; Rodgers, N. B. Tetrahedron, 43(14), 3295 (1987)] in 20 mL of ethanol and 6 mL of 2.5 N sodium hydroxide is heated at reflux for 4 hours. The mixture is poured into ice water and the pH is adjusted to 5-6 by the addition of acetic acid. The mixture is stirred at room temperature and the resulting precipitate is collected by filtration washing with water to provide 840 mg of 2-bromo-7-hydroxythieno[3,2-b]pyridine-6-carboxylic acid. A mixture of 2-bromo-7-hydroxythieno[2,3-b]pyridine-6-carboxylic acid (810 mg, 2.95 mmol) and N,N-carbonyldiimidazole (1.0 g, 6.17 mmol) in 15 mL of N,N′-dimethylformamide is heated at 65° C. for 2 hours. The mixture is poured into 50 mL of ice cold aqueous ammonium hydroxide and stirred for 14 hours. The resultant solids are collected by filtration washing with water to provide 800 mg of 2-bromo-7-hydroxythieno[3,2-b]pyridine-6-carboxamide. A mixture of 2-bromo-7-hydroxythieno[3,2-b]pyridine-6-carboxamide (273 mg, 1.0 mmol) and 3 mL of phosphorous oxychloride is heated at reflux for 1 hour. The solvent is removed in vacuo and the residue is poured into ice water and treated with sodium bicarbonate. The resultant solids are collected by filtration washing with water. The solids are purified by flash column chromatography eluting with chloroform to provide 240 mg of 2-bromo-7-chlorothieno[3,2-b]pyridine-6-carbonitrile as yellow crystals, mp 198-199° C.; 1H NMR (DMSO-d6) δ 8.12 (s, 1H), 9.11 (s, 1H); MS 273.1, 275.1, 277.1 (M+H)+.

reactant | ethyl 2-bromo-7-hydroxythieno[3,2-b]pyridine-6-carboxylate | 4.3 mmol, 1.3 g | BrC1=CC2=NC=C(C(=C2S1)O)C(=O)OCC | C10H8BrNO3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 2.5 N, 6 mL | [OH-].[Na+]
product | 2-bromo-7-hydroxythieno[3,2-b]pyridine-6-carboxylic acid | 840 mg | BrC1=CC2=NC=C(C(=C2S1)O)C(=O)O | C8H4BrNO3S
